### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): Add theorem `two_le_chromaticNumber_of_adj`

### PR DESCRIPTION
**Pull request by IvanRenison**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 1]
```diff
@@ -19,6 +19,16 @@ This file defines colorings for some common graphs
 
 namespace SimpleGraph
 
+theorem two_le_chromaticNumber_of_adj {α} {G : SimpleGraph α} {u v : α} (hAdj : G.Adj u v) :
+    2 ≤ G.chromaticNumber := by
+  refine le_of_not_lt ?_
+  intro h
+  have hc: G.Colorable 1 := chromaticNumber_le_iff_colorable.mp (Order.le_of_lt_add_one h)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:26]:
```suggestion
  have hc : G.Colorable 1 := chromaticNumber_le_iff_colorable.mp (Order.le_of_lt_add_one h)
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 2]
```diff
@@ -19,6 +19,16 @@ This file defines colorings for some common graphs
...
+  let c : G.Coloring (Fin 1) := hc.some
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:27]: Since you spend quite a bit of time just fiddling with the logic here, this suggests it could be useful to have a lemma saying `n < G.chromaticNumber` if G is not n-colourable.

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 3]
```diff
@@ -19,6 +19,16 @@ This file defines colorings for some common graphs
...
+  have huv : c u ≠ c v := Coloring.valid c hAdj
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:28]:
```suggestion
  have huv : c u ≠ c v := c.valid hAdj
```

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 4]
```diff
@@ -19,6 +19,16 @@ This file defines colorings for some common graphs
...
+  rw [(c u).fin_one_eq_zero, (c v).fin_one_eq_zero] at huv
+  exact huv rfl
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:30]:
```suggestion
  exact huv rfl
```
out of curiosity, I wonder if this works... Alternatively, `exact huv (Subsingleton.elim _ _)`, maybe?

**Review by b-mehta — COMMENTED** [review]
Nice!

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean (hunk 2 above)
Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:27]: For using it I ended up having to do all this:
```lean
  rw [show (2 : ℕ∞) = 1 + 1 by rfl]
  rw [ENat.add_one_le_iff ENat.one_ne_top]
  rw [show (1 : ℕ∞) = (1 : ℕ) by rfl]
  rw [le_chromaticNumber_iff_not_colorable]
  intro hc
```
So I don't now if it is worth it or not, what do you think? Maybe you now a better way to do all those rewrites

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
